US05232929
Under a nitrogen atmosphere in a round-bottom flask were placed 50 mg (0.12 mmol) of cis-5-(N-tert-butoxycarbonyl-2-methoxybenzylamino)-2-oxo-6-phenylpiperidine and 0.2 mL of THF. To the system were added 13.5 mg (0.12 mmol) of potassium tert-butoxide and 20 μL (0.24 mmol) of ethyl iodide. The reaction mixture was stirred at room temperature for 3 hours (during this period, additional potassium tert-butoxide (13.5 mg) and ethyl iodide (20 μL) were added to the system). The mixture was partitioned between methylene chloride and aqueous sodium bicarbonate, the layers were separated and the aqueous phase was extracted with three portions of methylene chloride. The combined organic fractions were dried (sodium sulfate) and concentrated with a rotary evaporator. The crude material was purified by flash column chromatography using 3:97 methanol/chloroform as the eluant to obtain 42 mg of cis-N-ethyl-5-(2-methoxybenzylamino)-2-oxo-6-phenylpiperidine.

reactant | cis-5-(N-tert-butoxycarbonyl-2-methoxybenzylamino)-2-oxo-6-phenylpiperidine | 0.12 mmol, 50 mg | C(C)(C)(C)OC(=O)N([C@@H]1CCC(N[C@@H]1C1=CC=CC=C1)=O)CC1=C(C=CC=C1)OC | C24H30N2O4
reactant | potassium tert-butoxide | 0.12 mmol, 13.5 mg | CC(C)([O-])C.[K+]
reactant | ethyl iodide | 0.24 mmol, 20 μL | C(C)I | C2H5I
reactant | potassium tert-butoxide | 13.5 mg | CC(C)([O-])C.[K+]
reactant | ethyl iodide | 20 μL | C(C)I | C2H5I
solvent | THF | 0.2 mL | C1CCOC1 | C4H8O
product | cis-N-ethyl-5-(2-methoxybenzylamino)-2-oxo-6-phenylpiperidine | 42 mg | C(C)N1C(CC[C@H]([C@H]1C1=CC=CC=C1)NCC1=C(C=CC=C1)OC)=O | C21H26N2O2
